US09023847B2
137. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(3-chloro-4-methoxy-benzylamino)-ethyl]-amide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide using 3-chloro-4-methoxybenzaldehyde instead of 4-methoxy benzaldehyde. LCMS (ESI) 456 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.52 (1H, br. s.) 10.28 (1H, s) 7.98-8.07 (2H, m) 7.77 (1H, d, J=5.42 Hz) 7.46 (1H, d, J=5.42 Hz) 7.36 (1H, d, J=2.15 Hz) 7.30 (1H, dd, J=3.51, 2.39 Hz) 7.20 (1H, dd, J=8.42, 2.12 Hz) 7.00 (1H, d, J=8.44 Hz) 6.80 (1H, d, J=5.52 Hz) 6.43 (1H, dd, J=3.54, 1.88 Hz) 3.80 (3H, s) 3.61 (2H, s) 2.60 (2H, t, J=6.59 Hz)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide | COC1=CC=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=C1 | C22H23N5O2S
reactant | 3-chloro-4-methoxybenzaldehyde | ClC=1C=C(C=O)C=CC1OC | C8H7ClO2
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(3-chloro-4-methoxy-benzylamino)-ethyl]-amide | ClC=1C=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=CC1OC | C22H22ClN5O2S
